US03994871
11. Trt-Cys(Trt)-Cys(Acm)-Thr(But)-Ser(But)-Ile-Cys(Trt)-Ser(But)-Leu-OH
3.6 g of Trt-Cys(Trt)-Cys(Acm)-Thr(But)-Ser(But)-Ile-Cys(Trt)-Ser(But)-Leu-OMe are dissolved in 50 ml of dioxane and 17 ml of water and 4 ml of 1 N sodium hydroxide solution are added. After 1 hour at 20°C the mixture is cooled to 0°C and 4 ml of 1 N hydrochloric acid are added dropwise. The dioxane is then largely evaporated off at 20°C under reduced pressure, 20 ml of water are added and the precipitate is filtered off and dried over potassium hydroxide.

reactant | Trt-Cys(Trt)-Cys(Acm)-Thr(But)-Ser(But)-Ile-Cys(Trt)-Ser(But)-Leu-OMe | 3.6 g | N([C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](CSCNC(=O)C)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C104H129N9O13S3
reactant | water | 17 ml | O | H2O
reactant | sodium hydroxide | 1 N, 4 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 4 ml | Cl | ClH
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | Trt-Cys(Trt)-Cys(Acm)-Thr(But)-Ser(But)-Ile-Cys(Trt)-Ser(But)-Leu-OH | N([C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](CSCNC(=O)C)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C103H127N9O13S3
